US07205306B2
5-Bromo-3-(7-bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 7-bromo-5-methoxyindoline hydrochloride as the starting materials. mp 122–123° C.; 1H NMR (300 MHz, CDCl3): δ 7.07 (s, 1 H), 6.92 (d, J=2.6 Hz, 1 H), 6.77 (d, J=2.2 Hz, 1 H), 4.95–4.80 (m, 1 H), 4.34 (t, J=7.7 Hz, 2 H), 3.78 (s, 3 H), 3.66 (dd, J=10.7, 5.5 Hz, 1 H), 3.56 (dd, J=10.3, 3.3 Hz, 1 H), 3.35 (s, 3 H), 3.10 (t, J=7.7 Hz, 2 H), 1.87–1.74 (m, 2 H), 0.93 (t, J=7.4 Hz, 3 H); HRMS (ESI) calcd for C18H22N3O3Br2 (M+H)+: 486.0028; found m/z 486.0018.

reactant | 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)[C@H](CC)COC)=O | C9H12Br2N2O2
reactant | 7-bromo-5-methoxyindoline hydrochloride | Cl.BrC=1C=C(C=C2CCNC12)OC
product | 5-Bromo-3-(7-bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1N=C(C(N(C1)[C@H](CC)COC)=O)N1CCC2=CC(=CC(=C12)Br)OC | C18H21Br2N3O3
